US07943654B2
3-(2-Amino-benzoylamino)-thieno[2,3-c]pyrazole-1,5-dicarboxylic Acid 5-tert-butyl Ester 1-ethyl Ester
The suspension of 3-(2-Nitro-benzoylamino)-thieno[2,3-c]pyrazole-1,5-dicarboxylic acid 5-tert-butyl ester 1-ethyl ester (984 mg, 2.136 mmol) and Pd/C 10% (200 mg) in ethyl acetate (AcOEt, 35 mL) was shaken under hydrogen pressure (40 psi) for 10 hours. The solid was filtered on celite, washed with AcOEt and the filtrate was evaporated under vacuum to yield 894 mg (97%) of title compound.

reactant | 3-(2-Nitro-benzoylamino)-thieno[2,3-c]pyrazole-1,5-dicarboxylic acid 5-tert-butyl ester 1-ethyl ester | 2.136 mmol, 984 mg | C(C)OC(=O)N1N=C(C2=C1SC(=C2)C(=O)OC(C)(C)C)NC(C2=C(C=CC=C2)[N+](=O)[O-])=O | C20H20N4O7S
solvent | ethyl acetate | 35 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 3-(2-Amino-benzoylamino)-thieno[2,3-c]pyrazole-1,5-dicarboxylic Acid 5-tert-butyl Ester 1-ethyl Ester | 894 mg, 97% | C(C)OC(=O)N1N=C(C2=C1SC(=C2)C(=O)OC(C)(C)C)NC(C2=C(C=CC=C2)N)=O | C20H22N4O5S
